US08809333B2
To a solution of 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanoic acid (304.6 mg, 0.945 mmol, 1 eq) in DCM (10 mL) was added TEA (172 mg, 1.70 mmol, 0.237 mL, 1.80 eq), EDCI (254 mg, 1.32 mmol, 1.4 eq), HOBT (260 mg 1.70 mmol, 1.80 eq) and O— tetrahydro-2-H-pyran-2-ylhydroxylamine (166 mg, 1.42 mmol, 1.5 eq). The reaction was allowed stir at RT overnight. The reaction mixture was diluted with DCM and water. The aqueous layer was extracted several times with DCM and the combined organic layers were dried (MgSO4), filtered and concentrated. The crude product mixture was absorbed onto silica gel and purified by flash chromatrography on silica gel eluting with an EtOAc-heptane gradient to give 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (24 mg, 6% yield). LC-MS M+H+422.6.

reactant | 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanoic acid | 0.945 mmol, 304.6 mg, 1 eq | CC(C(=O)O)(CCN1C=NC(=C1)C1=CC=CC=C1)S(=O)(=O)C | C15H18N2O4S
reactant | EDCI | 1.32 mmol, 254 mg, 1.4 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.70 mmol, 260 mg, 1.80 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tetrahydro-2-H-pyran-2-ylhydroxylamine | 1.42 mmol, 166 mg, 1.5 eq | O1C(CCCC1)NO | C5H11NO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 24 mg, 6% yield | CC(C(=O)NOC1OCCCC1)(CCN1C=NC(=C1)C1=CC=CC=C1)S(=O)(=O)C | C20H27N3O5S
